US08236806B2
1-(3,4-dichlorophenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 19)
110 mg (72%) of target compound was obtained by using a method same as in Example 1 by using 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal (80 mg, 0.289 mmol), 1-(3,4-dichlorophenyl)piperazine (67 mg, 0.289 mmol), DIPEA (0.076 mL, 0.434 mmol) and NaBH(OAc)3 (184 mg, 0.868 mmol).

reactant | 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal | 0.289 mmol, 80 mg | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C18H16N2O
reactant | 1-(3,4-dichlorophenyl)piperazine | 0.289 mmol, 67 mg | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | DIPEA | 0.434 mmol, 0.076 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.868 mmol, 184 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3,4-dichlorophenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28Cl2N4
